US07517995B2
2-(5-isopropyl-oxazol-2-yl)-ethylamine (XV.10)
6.50 g (22.54 mmol) benzyl[2-(5-isopropyl-oxazol-2-yl)-ethyl]-carbamate are placed in 130 ml of methanol, 3.50 g palladium/charcoal 10% are added, then the mixture is hydrogenated for 5 hours at ambient temperature under a pressure of 14 psi. Then the catalyst is removed by suction filtering, the solution is evaporated down. The residue is extracted with dichloromethane and potassium carbonate solution, the organic phase is dried and evaporated to dryness.

reactant | benzyl[2-(5-isopropyl-oxazol-2-yl)-ethyl]-carbamate | 22.54 mmol, 6.50 g | C(C1=CC=CC=C1)OC(NCCC=1OC(=CN1)C(C)C)=O | C16H20N2O3
solvent | methanol | 130 ml | CO | CH4O
catalyst | palladium/charcoal | 3.50 g | [Pd] | Pd
product | 2-(5-isopropyl-oxazol-2-yl)-ethylamine | C(C)(C)C1=CN=C(O1)CCN | C8H14N2O
